US08044213B2
A mixture of 2.33 g (8.43 mmole) of 2-bromo-3-(2-chloro-phenyl)-3-oxo-propionamide, 0.77 g (10.11 mmole) of thiourea and 20 mL of ethanol was stirred at room temperature for 18 hours. The mixture was then concentrated under reduced pressure. The residue was purified by chromatography on C18 reverse phase silica gel, eluting with acetonitrile-water (gradient 0:100-50:50) to give 0.72 g of 2-amino-4-(2-chloro-phenyl)-thiazole-5-carboxylic acid amide (V.20).

reactant | 2-bromo-3-(2-chloro-phenyl)-3-oxo-propionamide | 8.43 mmole, 2.33 g | BrC(C(=O)N)C(=O)C1=C(C=CC=C1)Cl | C9H7BrClNO2
reactant | thiourea | 10.11 mmole, 0.77 g | NC(=S)N | CH4N2S
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-amino-4-(2-chloro-phenyl)-thiazole-5-carboxylic acid amide | 0.72 g | NC=1SC(=C(N1)C1=C(C=CC=C1)Cl)C(=O)N | C10H8ClN3OS
